US08471005B2
261 g) Into a round-bottom flask, m-chloroperbenzoic acid (77% by weight in benzoic acid, 853 mg, 3.80 mmol) was added to a solution of 2-methylsulfanyl-[1,2,4]triazino[1,6-a]indole (780 mg, 3.60 mmol) in dichloromethane (20 mL), at 0° C. The reaction was stirred for 1 hour at room temperature. Saturated NaHCO3 in water was added and the reaction mixture was stirred for 30 minutes. The organic phase was separated, washed with brine, and dried over magnesium sulfate, then filtered. The solvent was removed under vacuum to afford 2-methanesulfinyl-[1,2,4]triazino[1,6-a]indole (820 mg, 98%) as an orange solid, which was used without further purification. 1H-NMR (CDCl3) δ 9.28 (s, 1H), 8.34 (d, J=8.5 Hz, 1H), 7.95 (d, J=8.1 Hz, 1H), 7.60 (m, 1H), 7.52 (m, 1H), 7.21 (s, 1H), 3.06 (s, 3H); LC/MS (ESI+): 254.5 (M+Na).

reactant | m-chloroperbenzoic acid | 3.80 mmol, 853 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-methylsulfanyl-[1,2,4]triazino[1,6-a]indole | 3.60 mmol, 780 mg | CSC1=NN2C(=CC3=CC=CC=C23)C=N1 | C11H9N3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-methanesulfinyl-[1,2,4]triazino[1,6-a]indole | 820 mg, 98% | CS(=O)C1=NN2C(=CC3=CC=CC=C23)C=N1 | C11H9N3OS
